Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Chest Pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo F with h/o HTN and tobacco p/w new-onset SSCP X 4 days. 
Chest pain is intermittent, radiating down to mid-abdomen. Pain 
seems to worsen with activity and improves slightly with rest. 
Not associated with SOB, palpitations, lightheadedness. Has been 
feeling more fatigued. No ___ edema, PND, orthopnea. The pain 
began gradually on ___, 3 days PTA, and the patient went to 
the ED where she had an EKG which showed no ishcemic changes. 
She left the ED because she thought that her condition was not 
serious. At work at noon on ___, the pain returned and she 
went to her PCP's office and while walking to her PCP's office, 
became SOB and was referred into ED for further evaluation. Over 
the last 4 days she has tried aspirin and pepto-bismol with no 
relief. She denies any N/V/D/C acid taste, belching, or pain 
associated with eating or inspiration/expiration.  
.  
In the ED, AF, VSS. She was given SL NTG X 1 without much relief 
in pain and received ibuprofen 800 mg X 1 and morphine 2 mg IV X 
2 with relief in chest pain. As the patient's pain was not 
completely controlled, she was admitted to medicine rather than 
obs'd in the ED overnight for 2 sets of CEs and ETT.  
.  
Currently, the pt continues to c/o ___ chest pain radiating 
down to abdomen, but appears comfortable.
 
Past Medical History:
-___ s/p nephrectomy ___ yrs ago
-HTN  
-Depression  
-Hyperthyroidism s/p RAI, removal of thyroid nodule, now on 
thyroid hormone replacement  
-Insomnia 

 
Social History:
___
Family History:
Mother died of pancreatic cancer. Mother MI age ___. ___ ___ 
with MI in her ___. Brother IDDM
 
Physical ___:
On Admission
PE 98.5 ___ 18 98%RA  
GEN - pleasant female, speaking in full sentences without SOB  
HEENT - MMM, OP clear, no carotid bruit b/l  
CV - regular, no m/r/g. CP reproducible with palpation along 
costochondral junctions b/l. Neg crowing rooster and horizontal 
traction tests.  
RESP - CTAB  
ABD - S/NT/ND, BS+, TTP over epigastrum and periumbilicus with 
mild voluntary guarding, no rebound  
EXT - ___ 2+, no cce
 
Pertinent Results:
___ 10:39AM BLOOD cTropnT-<0.01
___ 10:39AM BLOOD CK-MB-3
___ 11:30PM BLOOD cTropnT-<0.01
___ 11:30PM BLOOD CK-MB-3
___ 06:10PM BLOOD cTropnT-<0.01
___ 06:10PM BLOOD CK-MB-4
___ 06:10PM BLOOD Glucose-76 UreaN-14 Creat-0.8 Na-141 
K-3.9 Cl-106 HCO3-23 AnGap-16
___ 11:30PM   TRIGLYCER-88 HDL CHOL-48 CHOL/HDL-4.0 
LDL(CALC)-125
___ 11:30PM   CHOLEST-191
___ 11:30PM   TSH-1.2
___ 06:10PM   WBC-9.5 RBC-3.86* HGB-12.3 HCT-37.0 MCV-96 
MCH-31.8 MCHC-33.2 RDW-13.3
 
Brief Hospital Course:
#) Chest pain - EKG without ischemic changes suggestive of ACS. 
3 sets CEs negative. Has musculoskeletal component on exam. 
Exercise Stress Test: ___
INTERPRETATION: The patient exercised for 5.75 minutes of a 
modified ___ protocol (~ ___ METS). This represents a limited 
functional capacity for her age. The test was terminated due to 
a drop in systolic blood pressure. During exercise, the patient 
stated the discomfort was worse but continued to rate it at ___ 
on pain scale. There were no significant ST segment changes 
during exercise or in recovery. The rhythm was sinus with no 
ectopy throughout the study. There was a drop in systolic blood 
pressure at peak exercise from 132/68 to 100/60 associated with 
mild dizziness. In the presence of beta blockade therapy, the 
peak exercise heart rate was blunted. 
IMPRESSION: Symptomatic drop in systolic blood pressure at peak 
exercise. Atypical anginal type symptoms in the absence of 
ischemic EKG changes. 
.
Pharmacologic Stress Test ___: 
No anginal symptoms or ischemic ST segment changes. 
Persantine MIBI (___)
INTERPRETATION: The image quality is adequate. Left ventricular 
cavity size is normal. Rest and stress perfusion images reveal 
uniform tracer uptake throughout the left ventricular 
myocardium.  
Gated images reveal normal wall motion. The calculated left 
ventricular ejection fraction is 63%.  
IMPRESSION: Normal persantine myocardial perfusion study; LVEF = 
63%.   
.
Likely costochondritis is etiology of chest pain. 

 
Medications on Admission:
Synthroid 75 mcg daily  
Ambien 10 mg qhs  
Premarin 0.625 mg daily  (had taken herself off for 6 mos and 
restarted 2 wks ago.)
Norvasc 5 mg daily  
Lunesta 3 mg qhs  
Zoloft 150 mg daily  
Atenolol 50 mg daily
 
Discharge Medications:
1. Levothyroxine 75 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. Atenolol 50 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
3. Zolpidem 5 mg Tablet Sig: Two (2) Tablet PO HS (at bedtime).  

4. Amlodipine 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

5. Conjugated Estrogens 0.625 mg Tablet Sig: One (1) Tablet PO 
DAILY (Daily).  
6. Sertraline 50 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily).  
7. Lunesta 3 mg Tablet Sig: One (1) Tablet PO at bedtime.  
8. Nicotine 14 mg/24 hr Patch 24 hr Sig: One (1) Patch 24 hr 
Transdermal DAILY (Daily).  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Costochondritis

 
Discharge Condition:
Stable

 
Discharge Instructions:
Take all medications as prescribed. If you have any heart 
palpitations, fever, chills, vomiting, or any other symptom that 
concerns you, call your Primary care provider, Dr. ___ 
at ___ or come to the emergency room. 
 
Followup Instructions:
___